US07148226B2
1-(4-{2-[5-(6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclopropanecarbonitrile
A solution of 1-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile (568 mg, 1.54 mmol) in anhydrous MeOH (6.0 mL) was treated with 6-chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (365 mg, 2.0 mmol), followed by borane-dimethylamine complex (118 mg, 2.0 mmol) at room temperature. The reaction was stirred for 1 hour and then was concentrated to an oil. The oil was purified by flash chromatography (50 g SiO2, 70% ethyl acetate, 6% methanol, 0.5% acetic acid, 23.5% hexanes). The resultant oil was further purified by flash 509 SiO2, 1:3->1:0 (93.5% ethyl acetate, 6% methanol, 0.5% acetic acid): (81.5% hexanes, 12% ethyl acetate, 6% methanol, 0.5% acetic acid) to give the desired product as an oil. It was further purified by crystallization from ethyl acetate/hexanes to give a white powder (48.6 mg, 6%). 1H NMR (400 MHz, CDCl3) δ: 1.19–1.24 (m, 2 H), 1.39–1.61 (m, 10 H), 1.83–1.87 (m, 2 H), 2.25 (t, J=8.59 Hz, 1 H), 2.38 (d, J=17.94 Hz, 1 H), 2.54 (t, J=7.71 Hz, 2 H), 2.64 (d, J=17.94 Hz, 1 H), 3.98 (d, J=5.56 Hz, 2 H), 6.71–6.77 (m, 2 H), 7.06 (t, J=7.83 Hz, 1 H), 8.66 (s, 1 H), 8.73 (s, 1 H).

reactant | 1-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile | 1.54 mmol, 568 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C1(CC1)C#N)F | C22H24FNO3
reactant | 6-chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 2.0 mmol, 365 mg | ClC=1C=NC=2N(C1)N=C(N2)C=O | C6H3ClN4O
solvent | MeOH | 6.0 mL | CO | CH4O
product | 1-(4-{2-[5-(6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclopropanecarbonitrile | ClC=1C=NC=2N(C1)N=C(N2)CC2C(CC(OC2=O)(C2CCCC2)CCC2=CC(=C(C=C2)C2(CC2)C#N)F)=O | C28H27ClFN5O3
